US07763657B2
3-(4-tert-Butyl-phenyl)-N-(4-methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-acrylamide
To a ice-cooled solution of 4-methanesulfonylamino-2-methoxy-5-vinyl-benzylamine and HCl salt (220 mg, 0.73 mmol) prepared in the synthesis of Example 48 in methylene chloride was treated with trifluoroacetic acid (100 mg, 0.88 mmol)) for 1 hr, and then concentrated under reduced pressure. The part of the crude residue (50 mg, 0.13 mmol) was suspended in methylene chloride and treated with triethylamine followed by 3-(4-tert-butyl-phenyl)-acrylic acid (30 mg) and DMTMM (40 mg). The resulting mixture was stirred for 2 days at ambient temperature and concentrated under reduced pressure. The crude residue was column-chromatographed (hexane/ethylacetate=3/2) to yield a white solid (11 mg, 19%).

reactant | 4-methanesulfonylamino-2-methoxy-5-vinyl-benzylamine | CS(=O)(=O)NC1=CC(=C(CN)C=C1C=C)OC | C11H16N2O3S
reactant | HCl | 0.73 mmol, 220 mg | Cl | ClH
reactant | trifluoroacetic acid | 0.88 mmol, 100 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(4-tert-butyl-phenyl)-acrylic acid | 30 mg | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)O | C13H16O2
reactant | DMTMM | 40 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(4-tert-Butyl-phenyl)-N-(4-methanesulfonylamino-2-methoxy-5-vinyl-benzyl)-acrylamide | 11 mg, 19% | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)NCC1=C(C=C(C(=C1)C=C)NS(=O)(=O)C)OC | C24H30N2O4S
